### ISSUE TITLE
Complex well-founded recursive function fails to type check since v4.18.0

### ISSUE THREAD

**Issue by pandaman64** [leanprover/lean4#7826]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

The following `εClosure` started to fail type check since v4.18.0. It uses well-founded recursion with complex parameters, so I guess this was introduced by https://github.com/leanprover/lean4/issues/5471.

```lean
axiom SparseSet : Nat → Type

def SparseSet.insert {n} (set : SparseSet n) (v : Fin n) : SparseSet n := sorry

inductive Node where
  | epsilon (next : Nat)

structure NFA where
  nodes : Array Node

def NFA.get (nfa : NFA) (i : Nat) (h : i < nfa.nodes.size) : Node :=
  nfa.nodes[i]

structure Strategy' where
  T : Type

def εClosure (σ : Strategy') (nfa : NFA) (states : SparseSet nfa.nodes.size) (stack : List (Fin nfa.nodes.size)) :
  -- REPRO: using `σ.T` is necessary to reproduce.
  Option σ.T :=
  match stack with
  | [] => .none
  | state :: stack' =>
    -- REPRO: removing this `if` fixes the error.
    if true then
      εClosure σ nfa states stack'
    else
      -- REPRO: this insert is necessary to reproduce.
      let states' := states.insert state
      match nfa.get state state.isLt with
      | .epsilon state' =>
        -- REPRO: this line is also necessary to reproduce.
        have isLt : state' < nfa.nodes.size := sorry
        sorry
-- REPRO: using well-founded recursion is necessary to reproduce.
-- NOTE: the original code uses well-founded recursion to take visited states (`states`) into account.
termination_by /-structural-/ stack
```

### Context

Previously discussed at Zulip: https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/v4.2E18.2E0.20regression.20on.20well-founded.20recursion

### Steps to Reproduce

1. Copy the definition above to [playground](https://live.lean-lang.org/#codez=MQUwbghgNgBAMiCA7AdGEAnAzgSwPZIDKALhjkgOYBQVAtLTAEoCiACowPIBcMhADhGwhCIYjCQgQAEywxieORADWIGBBgCMEALajMchRhB8MeKQFcAxiBRUspK8XNHemrMNEwAFEhg8AchDEAJQwAO4AFpggNFIgAGaugu4ixCjk7hhiAN5IAL7e7mI8/MkeYkihXmB+MABi5OKhJW7l4n4AvDBYeBgYAJ405BaWxDjoMP5mqpHRVDAwAD4wxrhQBN4SAB7Fk0HBNPYYjs6q/nUAguFRRvPi07I8F30Q/ZPTsQmTlygUnj7xdQBS5VHC1QIhbwRWpggA84kBKCQDxQuAAXiBmu84p07khEci4lgANo4AC6hwco1OvFIQRAFH6AHJrnMFgAVWrs/p8GJUOKJQCtwABhdZYGleQDDwLUSFpiAzmVV8UDvhcqvZ6Y8kkJUgiIEiUejMYViBBLEpanAcPZvA1fMqDUTUTgMcFmnd6Ew2JweOZcJQYAADSUodmBmDW8QgaxYLCCN7yGBGExmKw2O4cPhjDYhzlcDp3bRBSzQjXm8I4YgRO7LYlkmAdAB8MANEhr3VN8r8PDLShZTbuC09LHY3CTIG0eDA5AocgikcDOHi4fiOC2IFkVdUmFMGFsCwWS7kx1UW6Qg4PIrFNOlyo7mvv5qZF5AUHcF6HDBHPrnkYymDESMJBjOMBgMccUxGdMDwPKBPA1eUsBZfN70Q9IkEyMQEJiGCFiLYgSz1X54M7VRsPSLA4DEMJK2rXClhbVYcHWXxsP7RsPwPYdvTHKtIygchVEjaAeijED43A5NTCg/d6JgCIIAma0qNqNiYHhB1CQ3Z0MU6bpegGTiFh6PpBm40dfX9WcwlfKBaHiPBzCQOIpHHSxnFwDYgOjDdQITQxjGktNbE9fwOHZZgeC3GBehwChyGgGBLGmGA/Q3cJbPsxznOkNyPPwXxE1NFQYGnXB5Vc7DZC8QMqsDUJyETM1kqctIqHlDBtAS7MkAAfQAIzeAB6WgjhOLQ7KGx8lCAA)

**Expected behavior:** [Clear and concise description of what you expect to happen]

The definition passes type check.

**Actual behavior:** [Clear and concise description of what actually happens]

The definition fails with the following error:

```
application type mismatch
  let_congr (Eq.refl ((wfParam states).insert (wfParam state))) fun states' =>
    congrArg
      (εClosure.match_1 (fun x => Option (wfParam σ.T))
        ((wfParam nfa).get (wfParam ↑state) (id (Eq.refl (wfParam ↑state)) ▸ (wfParam state).isLt)))
      (funext fun state' => letFun_body_congr sorry fun isLt => Eq.refl sorry)
argument
  fun states' =>
    congrArg
      (εClosure.match_1 (fun x => Option (wfParam σ.T))
        ((wfParam nfa).get (wfParam ↑state) (id (Eq.refl (wfParam ↑state)) ▸ (wfParam state).isLt)))
      (funext fun state' => letFun_body_congr sorry fun isLt => Eq.refl sorry)
has type
  SparseSet (wfParam nfa).nodes.size →
    (match (wfParam nfa).get (wfParam ↑state) ⋯ with
      | Node.epsilon x => sorry) =
      match (wfParam nfa).get (wfParam ↑state) ⋯ with
      | Node.epsilon x => sorry : Prop
but is expected to have type
  ∀ (x : SparseSet (wfParam nfa.nodes).size), ?b x = ?b' x : Prop
```

### Versions

- Confirmed reproduction with `4.18.0`, `4.19.0-rc2`, and `4.20.0-nightly-2025-04-05`.
- Confirmed that this does not reproduce with `4.17.0`.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by pandaman64** [comment]
I was able to work around the issue by `set_option wf.preprocess false`.

**Comment by nomeata** [comment]
Thanks for the report. This is a weird type error: The expected and given types should unify. 

I wager that the issue is within `simp`, maybe in simp’s handling of let, and can be reproduced independently. It's hard to investigate without a MWE, though.

**Comment by nomeata** [comment]
Did some more debugging. The problem seems to be that within `mkLetCongr` when invoked by `simp` here. The `wfParam x` is semireducible equal to `x`, but `mkLetCongr` runs at reducible transparency setting here, failing to type check things that should typecheck.

It does _not_ help to set `implicitDefEqProofs := false` here, the problem still shows up.

I’ll see if using full transparency in `mkAppM` helps, and what breaks.

**Comment by nomeata** [comment]
Here is a reproducer that’s independent of recursion:
```
example (a b : Nat) (h : a = b):
  (let _ : id Bool := true; a) = (let _ : Bool := true; b) := by
  simp -zeta -zetaDelta [h]
```
